US03995056
A mixture of 615 mg of methyl 4-(m-benzoyl-phenyl)-2-methyl-2-butenoate, 6.2 ml of ethanol, 0.6 ml of water and 0.4 ml of a concentrated aqueous solution of potassium hydroxide was refluxed for 1 hour and then was evaporated to dryness under reduced pressure. The residue was taken up in water and the solution was treated with activated carbon, filtered and acidified to a pH of 1 with 2 N hydrochloric acid. The solution was extracted with methylene chloride and the organic phase was washed with water, dried over sodium sulfate, treated with activated carbon, filtered and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel with 90-10 ether-methylene chloride eluant to obtain 287 mg of 4-(m-benzoyl-phenyl)-2-methyl-2-butenoic acid in the form of an oil.

reactant | methyl 4-(m-benzoyl-phenyl)-2-methyl-2-butenoate | 615 mg | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)CC=C(C(=O)OC)C | C19H18O3
reactant | ethanol | 6.2 ml | C(C)O | C2H6O
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | 0.6 ml | O | H2O
product | 4-(m-benzoyl-phenyl)-2-methyl-2-butenoic acid | 287 mg | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)CC=C(C(=O)O)C | C18H16O3
